US09278981B2
Stage 243.1 (R)-3-Bromo-N-(4-(chlorodifluoromethoxy)phenyl)-4-(3-hydroxypyrrolidin-1-yl)benzamide
A mixture of 3-bromo-N-(4-(chlorodifluoromethoxy)phenyl)-4-fluorobenzamide (1 g, 2.53 mmol), (R)-pyrrolidin-3-ol (0.331 g, 3.80 mmol) in TEA (0.706 mL, 5.07 mmol) and DMSO (2.53 mL) was stirred at 90° C. for 20 h. The RM was treated with 0.5 M HCl (50 mL) and extracted with EtOAc. The combined extracts were washed with 0.5 M HCl, sat. aq. NaHCO3 and brine, and dried over Na2SO4. The solvent was evaporated off under reduced pressure to give the crude product which was purified by flash chromatography (RediSep® Silica gel column, 40 g, cyclohexane/EtOAc, from 1% to 4.5% EtOAc). The residue was suspended in cyclohexane. The solid was filtered-off and dried to yield the title product as a white amorphous solid. UPLC-MS (Condition 3) tR=1.15 min, m/z=462.9 [M+H]+, m/z=460.9 [M−H]−; 1H-NMR (400 MHz, DMSO-d6) δ ppm 1.81-1.90 (m, 1H) 1.92-2.03 (m, 1H) 3.27 (dd, J=10.39, 1.10 Hz, 1H) 3.36-3.44 (m, 1H) 3.62-3.71 (m, 1H) 3.81 (dd, J=10.45, 4.71 Hz, 1H) 4.32-4.40 (m, 1H) 4.99 (d, J=3.42 Hz, 1H) 6.93 (d, J=8.80 Hz, 1H) 7.33 (d, J=9.05 Hz, 2H) 7.82-7.91 (m, 3H) 8.14 (d, J=2.20 Hz, 1H) 10.21 (s, 1H).

reactant | 3-bromo-N-(4-(chlorodifluoromethoxy)phenyl)-4-fluorobenzamide | 2.53 mmol, 1 g | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)Cl)C=CC1F | C14H8BrClF3NO2
reactant | (R)-pyrrolidin-3-ol | 3.80 mmol, 0.331 g | N1C[C@@H](CC1)O | C4H9NO
reactant | HCl | 0.5 M, 50 mL | Cl | ClH
solvent | DMSO | 2.53 mL | CS(=O)C | C2H6OS
product | (R)-3-Bromo-N-(4-(chlorodifluoromethoxy)phenyl)-4-(3-hydroxypyrrolidin-1-yl)benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)Cl)C=CC1N1C[C@@H](CC1)O | C18H16BrClF2N2O3
